US07618961B2
Ethyl (2-{[(4-butoxyphenyl)sulfonyl]amino}-1,3-thiazol-4-yl)acetate
The title compound was prepared from ethyl 2-amino-4-thiazolylacetate and 4-n-butoxybenzenesulfonyl chloride as described in the synthetic METHOD B to give a white solid (11.8 mg) with purity >90%. LCMS (pos) m/z 399.2.

reactant | ethyl 2-amino-4-thiazolylacetate | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | 4-n-butoxybenzenesulfonyl chloride | C(CCC)OC1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO3S
product | Ethyl (2-{[(4-butoxyphenyl)sulfonyl]amino}-1,3-thiazol-4-yl)acetate | C(CCC)OC1=CC=C(C=C1)S(=O)(=O)NC=1SC=C(N1)CC(=O)OCC | C17H22N2O5S2
